US09326973B2
A stirred suspension of diethyl 5-oxo-3,3a,4,5-tetrahydropentalene-2,2(1H)-dicarboxylate (322 mg, 1.209 mmol) and 10% Pd—C (129 mg, 0.121 mmol) in EtOH (40 mL) was hydrogenated under balloon pressure overnight. The suspension was filtered and the filtrate was evaporated to dryness to afford diethyl 5-oxohexahydropentalene-2,2(1H)-dicarboxylate as a clear oil.

reactant | diethyl 5-oxo-3,3a,4,5-tetrahydropentalene-2,2(1H)-dicarboxylate | 1.209 mmol, 322 mg | O=C1CC2CC(CC2=C1)(C(=O)OCC)C(=O)OCC | C14H18O5
solvent | EtOH | 40 mL | CCO | C2H6O
catalyst | Pd—C | 0.121 mmol, 129 mg | [Pd] | Pd
product | diethyl 5-oxohexahydropentalene-2,2(1H)-dicarboxylate | O=C1CC2CC(CC2C1)(C(=O)OCC)C(=O)OCC | C14H20O5
